* D:\OAMK\Elektroniikan perusteet\transistorivahvistin.asc
Q1 c b e 0 NPN
V§Ucc N001 0 5
V§Usig in 0 AC 0.2
Ci b in 35.5nF
RB2 b 0 4700
RE e 0 29.2
RL out 0 250
RC N001 c 248
RB1 N001 b 16800
Co out c 705.5nF
.model NPN NPN
.model PNP PNP
.lib C:\Users\Santtu Nyman\Documents\LTspiceXVII\lib\cmp\standard.bjt
.ac dec 100 100 10000
.backanno
.end
